US08623889B2
Step 4: (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(methylsulfinyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(methylthio)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (150 mg, 0.3674 mmol) and acetic acid (4.0 mL) was treated with hydrogen peroxide (35 mass % in water, 0.16 mL, 1.8 mmol) at room temperature. After 3 hours, additional hydrogen peroxide was added (35 mass % in water, 0.03 mL; 0.3 mmol). After an additional 30 minutes, the reaction mixture was poured into water (50 mL) and extracted with dichloromethane (2×50 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated. The crude product was purified via preparatory reverse-phase HPLC and lyophilized to yield 63.1 mg (45%) of the title compound. LCMS (ESI): RT (min)=4.013, M+H=384.2, method=E; 1H NMR (400 MHz, DMSO) δ 1H NMR (400 MHz, DMSO) δ 11.00 (s, 1H), 9.22 (s, 1H), 8.61 (s, 1H), 8.54 (s, 1H), 8.15 (s, 1H), 8.01 (d, J=8.6 Hz, 1H), 7.91 (s, 1H), 7.80 (d, J=8.5 Hz, 1H), 4.96 (m, 1H), 2.86 (s, 3H), 2.46 (s, 3H), 2.35-2.24 (m, 1H), 1.78-1.63 (m, 1H), 1.29-1.12 (m, 1H).

reactant | (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(methylthio)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.3674 mmol, 150 mg | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC(=CC1C)SC | C20H18FN3OS
reactant | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 1.8 mmol, 0.16 mL | OO | H2O2
solvent | water | O | H2O
solvent | water | 50 mL | O | H2O
product | (1S,2S)-2-fluoro-N-(7-(4-methyl-6-(methylsulfinyl)pyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 63.1 mg, 45% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC(=CC1C)S(=O)C | C20H18FN3O2S
